plaintext
* Differential Amplifier Netlist
.OPTIONS POST=2
* Transistor Models
.MODEL NPN NPN (IS=1E-14 BF=100)
* Nodes
* 1 - Vin1, 2 - Collector of Q3 and Q4, 3 - Base of Q1 and Q2
* 4 - Vout, 5 - IEE, 6 - VCC
* BJTs
Q1 2 1 5 NPN
Q2 2 3 5 NPN
? Missing component
Q4 6 4 3 NPN
* Current Source
I1 5 0 DC IEE
* Voltages
VCC 6 0 DC VCC
* Input Voltages
Vin1 1 0 DC 0
Vin2 3 0 DC 0
.END
